US09079861B2
To a solution of (S)-1-(4-bromophenyl)ethanamine (100 g, 0.502 mol) and K2CO3 (138.8 g, 0.10 mol) in acetonitrile (1000 mL) was added a solution of 3-chloro-1-phenyl-propan-1-one (84.4 g, 0.502 mol) in acetonitrile (100 mL). The reaction mixture was stirred overnight. The solid was filtered, and the filtrate was concentrated to give crude (S)-3-(1-(4-bromo-phenyl)ethylamino)-1-phenylpropan-1-one (110 g, 66.2%), which was used in the next step without further purification.

reactant | (S)-1-(4-bromophenyl)ethanamine | 0.502 mol, 100 g | BrC1=CC=C(C=C1)[C@H](C)N | C8H10BrN
reactant | K2CO3 | 0.10 mol, 138.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chloro-1-phenyl-propan-1-one | 0.502 mol, 84.4 g | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
solvent | acetonitrile | 1000 mL | C(C)#N | C2H3N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (S)-3-(1-(4-bromo-phenyl)ethylamino)-1-phenylpropan-1-one | 110 g, 66.2% | BrC1=CC=C(C=C1)[C@H](C)NCCC(=O)C1=CC=CC=C1 | C17H18BrNO
